US06586429B2
A mixture of (R)-7-ethoxymethyl-1-(5-hydroxyhexyl)-8-mercapto-3-methylxanthine (0.19 g, 0.533 mmol) potassium carbonate (0.15 g, 10.7 mmol) and 1-bromo-2-chloroethane (114 mg, 0.80 mmol) in acetonitrile (10 ml) was stirred at 65° C. for 1.5 hours. After concentrating under reduced pressure, the residue was purified by column chromatography on silica gel eluting with ethyl acetate-hexane (1:1) to provide (R)-7-ethoxymethyl-8-(2-chloroethylsulfanyl)-1-(5-hydroxyhexyl)-3-methylxanthine (150 mg, 67% yield) as a white powder.

reactant | (R)-7-ethoxymethyl-1-(5-hydroxyhexyl)-8-mercapto-3-methylxanthine | 0.533 mmol, 0.19 g | C(C)OCN1C(=NC=2N(C(N(C(C12)=O)CCCC[C@@H](C)O)=O)C)S | C15H24N4O4S
reactant | 1-bromo-2-chloroethane | 0.80 mmol, 114 mg | BrCCCl | C2H4BrCl
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (R)-7-ethoxymethyl-8-(2-chloroethylsulfanyl)-1-(5-hydroxyhexyl)-3-methylxanthine | 150 mg, 67% yield | C(C)OCN1C(=NC=2N(C(N(C(C12)=O)CCCC[C@@H](C)O)=O)C)SCCCl | C17H27ClN4O4S
